US05852017
b) 7-Amino-1-ethyl-2,3(1H,4H)-quinoxalinedione
8.3 g (35 mmol) of 1-ethyl-6-nitro-2,3 (1H,4H)-quinoxalinedione were dissolved in 300 ml of dimethylformamide and, after addition of 2 g of palladium/carbon (10%), were hydrogenated. The mixture was then filtered and the filtrate was concentrated under reduced pressure to yield 5.9 g (81%) of the product.

reactant | 1-ethyl-6-nitro-2,3 (1H,4H)-quinoxalinedione | 35 mmol, 8.3 g | C(C)N1C(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)=O | C10H9N3O4
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | palladium/carbon | 2 g | [Pd] | Pd
product | 7-Amino-1-ethyl-2,3(1H,4H)-quinoxalinedione | 5.9 g, 81% | NC1=CC=C2NC(C(N(C2=C1)CC)=O)=O | C10H11N3O2
